US06441005B1
5-(S)-Azidomethyl-3-[4′-(N-methoxyamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one
N-Methoxyamine hydrochloride (123 mg, 1.5 mmol) was added to a solution of 5-(S)-azidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophenyl]-oxazolidine-2-one (600 mg, 1.3 mmol) and diisopropylethylamine (0.26 ml, 1.5 mmol) in TBIF (8 ml), and the mixture stirred overnight at r.t. Solvent was removed under vacuum, and ethyl acetate with 3% aq. citric acid added. Organic layer was washed twice with 3% citric acid, brine, and dried (Na2SO4). Solvent was removed under vacuum, and the crude material crystallized from ethanol-ether to give a white crystalline product (335 mg, 83%). HPLC Rt=4.8. MS (m/z): [M+H]+=310.

reactant | N-Methoxyamine hydrochloride | 1.5 mmol, 123 mg | Cl.CON
reactant | 5-(S)-azidomethyl-3-[4′-(pentafluorophenoxy)carbonyl-3′-fluorophenyl]-oxazolidine-2-one | 1.3 mmol, 600 mg | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)F | C17H8F6N4O4
reactant | diisopropylethylamine | 1.5 mmol, 0.26 ml | C(C)(C)N(CC)C(C)C | C8H19N
product | 5-(S)-Azidomethyl-3-[4′-(N-methoxyamino)carbonyl-3′-fluorophenyl]-oxazolidine-2-one | 335 mg, 83% | N(=[N+]=[N-])C[C@@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)NOC)F | C12H12FN5O4
